US07157463B2
5-(Piperazin-1-yl)isoquinoline is dissolved in DCM, and Boc2O (620 mg, 2.84 mmol) is added in one portion. The reaction mixture is stirred at r.t. for about 4 hours under nitrogen and concentrated under vacuum. The residue is purified by chromatography on silica gel to give about 201 mg of 5-(4-t-butyloxycarbonylpiperazin-1-yl)isoquinoline (92%).

reactant | 5-(Piperazin-1-yl)isoquinoline | N1(CCNCC1)C1=C2C=CN=CC2=CC=C1 | C13H15N3
reactant | Boc2O | 2.84 mmol, 620 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 5-(4-t-butyloxycarbonylpiperazin-1-yl)isoquinoline | about 201 mg, 92% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2C=CN=CC2=CC=C1 | C18H23N3O2
